US07235574B2
ii) 1-[4-(4-Methoxy-phenyl)-butyl]-1H-imidazole
A mixture of 3.65 g (15.0 mmol) 1-(4-bromo-butyl)-4-methoxy-benzene, 1.02 g (15.0 mmol) imidazole, 2.74 g (16.5 mmol) potassium iodide, 0.60 g (15.0 mmol) sodium hydroxide and 20 ml 2-methyl-2-butanol was heated to reflux for 7 h. Solvents were distilled off, the residue dissolved in ethyl acetate and washed with water. Drying over Na2SO4 and removal of solvents in vacuo gave 2.0 g (58%) slightly colored oil.

reactant | 1-(4-bromo-butyl)-4-methoxy-benzene | 15.0 mmol, 3.65 g | BrCCCCC1=CC=C(C=C1)OC | C11H15BrO
reactant | imidazole | 15.0 mmol, 1.02 g | N1C=NC=C1 | C3H4N2
reactant | potassium iodide | 16.5 mmol, 2.74 g | [I-].[K+]
reactant | sodium hydroxide | 15.0 mmol, 0.60 g | [OH-].[Na+]
solvent | 2-methyl-2-butanol | 20 ml | CC(C)(CC)O | C5H12O
product | 1-[4-(4-Methoxy-phenyl)-butyl]-1H-imidazole | COC1=CC=C(C=C1)CCCCN1C=NC=C1 | C14H18N2O
